US06875760B2
4-[3-(3-Cyanophenyl)-1-(4-cyclohexylphenyl)ureidomethyl]-N-(2H-tetrazol-5-yl)benzamide
The above resin bound 4-formyl-N-(2H-tetrazol-5-yl)benzamide (50 mg) was treated with a 0.5 M solution of 4-cyclohexylaniline (0.25 mmol, 41.25 mg) in a mixture of DMF and trimethylorthoformate (1:1, 0.5 mL) and glacial acetic acid (50 μL) for 1 hour at 25° C. followed by sodium cyanoborohydride (250 μmol, 16 mg) dissolved in a mixture of DMF and methanol (1:1, 0.25 mL). Shaking at 25° C. for 4 hours followed by filtration and washing with a mixture of DMF and methanol (1:1, 2×1 mL), 3×1 mL DMF and 2×1 mL dichloromethane afforded the desired product.

reactant | 4-formyl-N-(2H-tetrazol-5-yl)benzamide | 50 mg | C(=O)C1=CC=C(C(=O)NC=2N=NNN2)C=C1 | C9H7N5O2
reactant | 4-cyclohexylaniline | 0.25 mmol, 41.25 mg | C1(CCCCC1)C1=CC=C(N)C=C1 | C12H17N
reactant | acetic acid | 50 μL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 250 μmol, 16 mg | C(#N)[BH3-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | trimethylorthoformate | 0.5 mL | COC(OC)OC | C4H10O3
solvent | methanol | 0.25 mL | CO | CH4O
product | 4-[3-(3-Cyanophenyl)-1-(4-cyclohexylphenyl)ureidomethyl]-N-(2H-tetrazol-5-yl)benzamide | C(#N)C=1C=C(C=CC1)NC(N(C1=CC=C(C=C1)C1CCCCC1)CC1=CC=C(C(=O)NC=2N=NNN2)C=C1)=O | C29H28N8O2
